US04988686
3-diphenylmethoxy-6-hydroxymethyl-1-methyl-4-pyridone
To a solution of 3.035 g of 3-diphenylmethoxy-6-hydroxymethyl-4-pyrone in 20 ml of methanol is added 50 ml of 40% aqueous methylamine solution, and the mixture is stirred for 4 hours. The reaction mixture is condensed under reduced pressure to a volume of 15 ml, and the resulting crystal is collected by filtration, washed with a small amounts of water and ethyl acetate in this sequence, and dried under reduced pressure to give 2.04 g of the title compound.

reactant | 3-diphenylmethoxy-6-hydroxymethyl-4-pyrone | 3.035 g | C1(=CC=CC=C1)C(OC1=COC(=CC1=O)CO)C1=CC=CC=C1 | C19H16O4
reactant | methylamine | 50 ml | CN | CH5N
solvent | methanol | 20 ml | CO | CH4O
product | 3-diphenylmethoxy-6-hydroxymethyl-1-methyl-4-pyridone | 2.04 g | C1(=CC=CC=C1)C(OC1=CN(C(=CC1=O)CO)C)C1=CC=CC=C1 | C20H19NO3
